US06407129B1
Chloromethyl [3-(methoxy)propyl] carbonate (3.7 g) was dissolved in acetonitrile (12 ml), and sodium iodide (12.0 g) was added. The mixture was stirred at 55° C. for 4 hours under an argon atmosphere. The reaction mixture was poured into water (100 ml) and extracted with ethyl acetate (100 ml). The ethyl acetate layer was washed with an aqueous 5% sodium thiosulfate solution (50 ml×2), water (50 ml) and a saturated sodium chloride aqueous solution (50 ml). After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure to obtain iodomethyl [3-(methoxy)propyl] carbonate (5.0 g) as a pale yellow liquid.

reactant | Chloromethyl [3-(methoxy)propyl] carbonate | 3.7 g | C(OCCl)(OCCCOC)=O | C6H11ClO4
reactant | sodium iodide | 12.0 g | [I-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
product | iodomethyl [3-(methoxy)propyl] carbonate | 5.0 g | C(OCI)(OCCCOC)=O | C6H11IO4
